* generic OpAmp model
* gain, phase, offset, limits to power supply

.model mcrdlm5 c tc1 = 0 tc2 = 0 cox = {crdlm5} capsw = {crdlm5sw} w = {wminrdl} tnom = 25.0
*.model sky130_fd_pr__res_generic_nd r tc1r = {tc1rsn} tc2r = {tc2rsn} rsh = {rdn} dw = {"-tol_nfom/2-nfom_dw/2"} tnom = 30.0

*.include "../cells/nfet_01v8/sky130_fd_pr__nfet_01v8__tt.corner.spice"
*.include "temp.lib"

.subckt generic_comp in+ in- vcc vee out params: POLE=20 GAIN=20k VOFF=10m ROUT=10
Voff in+ inoff dc {VOFF}
G10 0 int inoff in- 100u
R1 int 0 {GAIN/100u}
C1 int 0 {1/(6.28*(GAIN/100u)*POLE)}
Eout 2 0 int 0 1
Rout 2 out {ROUT}
Elow 3 0 vee 0 1
Ehigh 8 0 vcc 0 1
Dlow 3 int Dlimit
Dhigh int 8 Dlimit
.model Dlimit D N=0.01
.ends
